US05905074
To a solution of 104 mg (0.35 mMol) of (1S,4aR,5R,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hexyl]-4a-methyl-decahydro-naphtalen-1-ol in 2 ml of CH2Cl2 are added under stirring 91.5 mg (0.42 mMol) of pyridiniumchlorochromate. The reaction mixture is kept stirring for 4 hours, diethylether is added and the slurry is filtered through Florisil using diethylether as eluant. The residue obtained after evaporation in vacuo is chromatographed over 5 g of silicagel with CH2Cl2 /ethylacetate 9/1 to yield 88 mg (85.5%) of oily pure (4aR,5R,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hexyl]-4a-methyl-octahydro-naphtalen-1-one.

reactant | (1S,4aR,5R,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hexyl]-4a-methyl-decahydro-naphtalen-1-ol | 0.35 mMol, 104 mg | OC(CCC[C@@H](C)[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C)(C)C | C19H36O2
reactant | pyridiniumchlorochromate | 0.42 mMol, 91.5 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethylether | C(C)OCC | C4H10O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (4aR,5R,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hexyl]-4a-methyl-octahydro-naphtalen-1-one | 88 mg, 85.5% | OC(CCC[C@@H](C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C19H34O2
